US04329471
A mixture of 4.7 g (15 mmole) of 5-(bromomethyl)-1,3-dihydro-4-(4-methoxybenzoyl)-2H-imidazol-2-one, 2.5 g (16 mmole) of 4-phenylpiperidine, 2.1 g (15 mmole) of potassium carbonate and 75 ml of ethanol is stirred at 25° C. for 16 hours. Water (100 ml) is added and a precipitate forms. This is separated by filtration and washed with water. It is then suspended in 2-propanol and 1 equivalent of hydrogen chloride in 2-propanol is added. The resulting solid is separated by filtration and recrystallized from 2-propanol containing a little water to give 1,3-dihydro-4-(4-methoxybenzoyl)-5-[(4-phenyl-1-piperidinyl)methyl]-2H-imidazol-2-one hydrochloride melting at about 230° C. with decomposition.

reactant | 5-(bromomethyl)-1,3-dihydro-4-(4-methoxybenzoyl)-2H-imidazol-2-one | 15 mmole, 4.7 g | BrCC1=C(NC(N1)=O)C(C1=CC=C(C=C1)OC)=O | C12H11BrN2O3
reactant | 4-phenylpiperidine | 16 mmole, 2.5 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | potassium carbonate | 15 mmole, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
solvent | Water | 100 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1,3-dihydro-4-(4-methoxybenzoyl)-5-[(4-phenyl-1-piperidinyl)methyl]-2H-imidazol-2-one hydrochloride | Cl.COC1=CC=C(C(=O)C=2NC(NC2CN2CCC(CC2)C2=CC=CC=C2)=O)C=C1 | InChI=1S/C23H25N3O3.ClH/c1-29-19-9-7-18(8-10-19)22(27)21-20(24-23(28)25-21)15-26-13-11-17(12-14-26)16-5-3-2-4-6-16;/h2-10,17H,11-15H2,1H3,(H2,24,25,28);1H
